US05506256
Phenol (1.50 g) and sodium methoxide (380 mg) were added to (2S)-1-(t-butoxycarbonyl)-2-(1,2-epoxyethyl)pyrrolidine (1.50 g) as obtained in Example 1-A) in methanol (30 ml ), followed by 16 hour' stirring under reflux. The reaction mixture was concentrated and the residue was dissolved in ether. The solution was washed with 1N hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and saturated brine in order, and dried over magnesium sulfate, followed by concentration. The residue was purified by silica gel column chromatography (eluate: hexane-ethyl actate) to give 1.10 g of (2S)-1-(t-butoxycarbonyl)-2-(1-hydroxy-2-phenoxyethyl)-pyrrolidine.

reactant | Phenol | 1.50 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium methoxide | 380 mg | C[O-].[Na+]
reactant | (2S)-1-(t-butoxycarbonyl)-2-(1,2-epoxyethyl)pyrrolidine | 1.50 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1CO1 | C11H19NO3
solvent | methanol | 30 ml | CO | CH4O
product | (2S)-1-(t-butoxycarbonyl)-2-(1-hydroxy-2-phenoxyethyl)-pyrrolidine | 1.10 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=CC=C1)O | C17H25NO4
